US04382143
Preparation of N-(4-hexadecylamino-2-thiophenecarbonyl)pyrrolidine
A warm solution of 1.0 g. of 4-[N-(carbobenzyloxy)-N-hexadecylamino]-2-thiophenecarbonyl chloride and 1.3 g. of triethylamine in 100 ml. of ether is added to 1.2 g. of pyrrolidine. A precipitate forms; the mixture is stirred under reflux for 1 hour, filtered, and extracted with hot ether. The extract is evaporated and a solution of the resulting residue in 100 ml. of tetrahydrofuran is shaken under 50 psi of hydrogen in the presence of 0.6 g. of 10% palladium on carbon. The mixture is filtered and the filtrate evaporated. The residue is crystallized from acetic acid to yield the product as a white solid.

reactant | 4-[N-(carbobenzyloxy)-N-hexadecylamino]-2-thiophenecarbonyl chloride | C(=O)(OCC1=CC=CC=C1)N(CCCCCCCCCCCCCCCC)C=1C=C(SC1)C(=O)Cl | C29H42ClNO3S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | pyrrolidine | N1CCCC1 | C4H9N
solvent | ether | CCOCC | C4H10O
product | N-(4-hexadecylamino-2-thiophenecarbonyl)pyrrolidine | C(CCCCCCCCCCCCCCC)NC=1C=C(SC1)C(=O)N1CCCC1 | C25H44N2OS
